US06586475B1
Methyl 1-(4-biphenylylmethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylate
A mixture of methyl 6-hydroxynicotinate (3 g), 4-biphenylylmethyl bromide (5.8 g), potassium carbonate (8.2 g), and DMF (30 ml) was stirred at room temperature for 12 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride sequentially and concentrated. The resulting crystals were washed with diisopropylether and recrystallized from ethyl acetate/hexane to obtain the titled compound (5.1 g).

reactant | methyl 6-hydroxynicotinate | 3 g | OC1=NC=C(C(=O)OC)C=C1 | C7H7NO3
reactant | 4-biphenylylmethyl bromide | 5.8 g | C1(=CC=C(C=C1)CBr)C1=CC=CC=C1 | C13H11Br
reactant | potassium carbonate | 8.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Methyl 1-(4-biphenylylmethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylate | 5.1 g | C1(=CC=C(C=C1)CN1C=C(C=CC1=O)C(=O)OC)C1=CC=CC=C1 | C20H17NO3
